US09284277B2
a) 7-Nitro-2,3,4,5-tetrahydro-1H-benzo[d]azepine
To a cooled (0° C.) solution of trifluoroacetic acid (67.2 ml, =869.38 mmol), 2,3,4,5-Tetrahydro-1H-benzo[d]azepine (18 g, 122.44 mmol) was added drop-wise over a period of 20 min. To this, concentrated sulphuric acid (23.4 ml, 440.78 mmol) was added over a period of 45 min at 0° C., and the mixture was stirred for an additional 30 minutes. To this reaction mixture, concentrated nitric acid (8.1 ml, 192.23 mmol) was added drop-wise at 0° C. over a period of 1 h, followed by stirring at room temperature for 2 h. To the reaction mixture, ethyl acetate (250 ml) was added drop-wise at 0° C. The resulting precipitate was filtered and washed with ethyl acetate (100 ml). The crude solid product was added to chloroform (250 ml), washed with 10% sodium hydroxide solution (150 ml), dried over Na2SO4, and concentrated to give the sub-title compound as a light yellow solid (17.4 g). 1H NMR (300 MHz, DMSO-d6) δ 7.99-7.93 (m, 2H); 7.38 (d, J=8.1 Hz, 1H); 2.98-2.94 (m, 4H); 2.79-2.76 (m, 4H); MS: ESI (positive): 193 (M+H).

reactant | trifluoroacetic acid | 869.38 mmol, 67.2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2,3,4,5-Tetrahydro-1H-benzo[d]azepine | 122.44 mmol, 18 g | C1CNCCC2=C1C=CC=C2 | C10H13N
reactant | sulphuric acid | 440.78 mmol, 23.4 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 192.23 mmol, 8.1 ml | [N+](=O)(O)[O-] | HNO3
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 7-Nitro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 17.4 g | [N+](=O)([O-])C1=CC2=C(CCNCC2)C=C1 | C10H12N2O2
